US07943607B2
3-[(5,5-Dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-1H-pyrazol-3-ylbenzamide
The preparation of 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate was described earlier. The preparation of 3-[(5,5-dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(s)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid is described below.

reactant | 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate | NC1=NN(C=C1)C(=O)OC(C)(C)C | C8H13N3O2
reactant | 3-[(5,5-dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(s)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | O=S1(CCCOC2=C1C=CC(=C2)OC=2C=C(C(=O)O)C=C(C2)O[C@H](COC)C)=O | C20H22O8S
product | 3-[(5,5-Dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-1H-pyrazol-3-ylbenzamide | O=S1(CCCOC2=C1C=CC(=C2)OC=2C=C(C(=O)NC1=NNC=C1)C=C(C2)O[C@H](COC)C)=O | C23H25N3O7S
